data/mechanism_extracts/JACS/10.1021_jacs.3c04073.json
{"doi": "10.1021_jacs.3c04073", "journal": "JACS", "is_review": false, "rxn_class_summary": "Metal-free photoinduced energy-transfer enabled amino(hetero)arylation and aminosulfonylation of alkenes using bifunctional oxime ester reagents, with NaHSO3 as SO2 source for the sulfonylation variant", "mechanism_family": ["photoredox_combined", "radical_cation", "other"], "electrochemical_role": null, "key_intermediates": [{"name": "excited oxime ester a1* (triplet) generated by EnT from 2-iPrTX*", "smiles": null, "role": "transient"}, {"name": "persistent iminyl radical (Ph2C=N•, species 125)", "smiles": "N(=C(c1ccccc1)c1ccccc1)[*]", "role": "reactive"}, {"name": "transient (hetero)aryl radical (e.g., 2-pyridyl radical, species 126) after CO2 loss", "smiles": "[c]1ccccn1", "role": "reactive"}, {"name": "benzylic/alkyl C-centered radical 127 from aryl radical addition to alkene", "smiles": null, "role": "transient"}, {"name": "(hetero)arylsulfonyl radical 128 (ArSO2•) from pyridyl radical + SO2", "smiles": null, "role": "reactive"}, {"name": "alkyl-sulfonyl C-radical 129 after sulfonyl radical addition to alkene", "smiles": null, "role": "transient"}, {"name": "2-iPr-thioxanthone (2-iPrTX) triplet sensitizer (excited state)", "smiles": "O=C1c2ccccc2Sc2ccc(C(C)C)cc21", "role": "reactive"}], "electron_flow": "Visible light excites 2-iPrTX, which sensitizes the oxime ester a1 via triplet energy transfer; the excited a1* fragments its N-O bond, releasing CO2 to give a persistent iminyl radical and a transient (hetero)aryl radical. The aryl (or, with NaHSO3, the in-situ-formed arylsulfonyl) radical adds to the alkene, and the resulting carbon-centered radical undergoes radical-radical cross-coupling with the iminyl radical (or chain transfer with another a1) to deliver the β-(hetero)arylethylamine product.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Addition of 2.0 equiv TEMPO completely inhibited the reaction of a1 with styrene (only trace 1), supporting radical intermediates"}, {"name": "Allyl-tethered oxime ester a24 (radical clock / 5-exo-trig probe)", "smiles": null, "purpose": "radical_clock", "observation": "Gave cyclized product 123 in 60% via 5-exo-trig radical addition/cyclization, confirming aryl and iminyl radical intermediates"}, {"name": "Diethyl diallylmalonate b77 (ring-closing diene probe)", "smiles": "C=CCC(CC=C)(C(=O)OCC)C(=O)OCC", "purpose": "radical_clock", "observation": "Ring-closed product 124 formed (15%, 2.8:1 d.r.), consistent with radical addition/cyclization pathway"}, {"name": "Crossover oxime esters a1 + a25", "smiles": null, "purpose": "crossover", "observation": "GC-MS detected all four crossover combinations of pyridyl/4-F-aryl with Ph2C=N/Ar2C=N, showing radical-radical coupling occurs outside the solvent cage"}, {"name": "Thermal radical initiators (AIBN, DTBP, BPO) in the dark at 90 °C", "smiles": null, "purpose": "redox_probe", "observation": "No product 1 formed (0% yield), indicating that photoinduced EnT (not simple thermal radical initiation) is required"}, {"name": "UV-vis absorption of a1, b1, 2-iPrTX", "smiles": null, "purpose": "other", "observation": "Only 2-iPrTX absorbs near the 390 nm excitation wavelength, consistent with it being the sole light-absorbing species and EnT operation"}, {"name": "Quantum yield measurement", "smiles": null, "purpose": "other", "observation": "Φ = 2.5 (aminoarylation) and 1.4 (aminosulfonylation), >1, suggesting a free radical chain mechanism contributes"}], "evidence_types_used": ["radical_clock", "intermediate_trap_TEMPO", "on/off_light_or_current", "UV_vis", "crossover", "kinetic_order", "isolation_of_intermediate"], "evidence_strength": "strong", "notes": "Mechanism proceeds via energy transfer (EnT) from photoexcited 2-iPrTX to the oxime ester rather than single-electron transfer (photoredox SET); UV-vis shows only 2-iPrTX absorbs at 390 nm and quantum yields >1 indicate a contributing radical chain. The iminyl radical acts as the persistent radical (persistent-radical effect) while the (hetero)aryl radical is transient. For aminosulfonylation, NaHSO3 generates SO2 that is trapped by the pyridyl radical to give an arylsulfonyl radical before alkene addition. Termination of the C-radical with iminyl can occur either by radical-radical coupling with 125 or by H/N transfer with another a1, consistent with the observed crossover and chain quantum yield."}
